US08071807B2
Step 4: [3-(4-tert-Butylcarbamoyl-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid
[3-(4-tert-Butylcarbamoyl-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (0.46 mmol) was treated with lithium hydroxide in MeOH and H2O at 60° C. for 20 minutes to give the title compound.

reactant | [3-(4-tert-Butylcarbamoyl-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 0.46 mmol | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(NC(C)(C)C)=O)CSC(C)(C)C)=O | C27H37NO5S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | [3-(4-tert-Butylcarbamoyl-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid | C(C)(C)(C)NC(=O)C1=CC(=C(OC=2C=C(C=CC2OC)CC(=O)O)C=C1)CSC(C)(C)C | C25H33NO5S
